US05130335
D. Ethyl 4-hydroxy-3-methylbenzoate
Ethyl 4-amino-3-methylbenzoate (3.85 g; 21.5 mmol) was dissolved in hot, 35% H2SO4 /water and the mixture then cooled to below 5° C. An ice-cold solution of 1.91 g (22.5 mmol) of sodium nitrite in 20 ml of water was then slowly added to the mixture such that the temperature of the mixture never exceeded 5° C. The mixture was stirred at 5° C. for 10 minutes and then treated with 1 g of urea and stirred for a further 10 minutes. A solution of 50 g (207 mmol) of cupric nitrate trihydrate in 750 ml of water was added to the reaction mixture followed by 2.87 g of cuprous oxide. The mixture was stirred for a further 15 minutes and then extracted with 3×300 ml ether. The ether extracts were combined and then washed with water and saturated NaCl solution and then dried (MgSO4). The solution was filtered, the solvent removed in-vacuo and the residue purified by flash chromatography (silica; 13% ethyl acetate in hexanes to 20% ethyl acetate in hexanes) to give the title compound as a pale yellow solid.

reactant | Ethyl 4-amino-3-methylbenzoate | 21.5 mmol, 3.85 g | NC1=C(C=C(C(=O)OCC)C=C1)C | C10H13NO2
reactant | H2SO4 water | OS(=O)(=O)O.O
reactant | sodium nitrite | 22.5 mmol, 1.91 g | N(=O)[O-].[Na+]
reactant | urea | 1 g | NC(=O)N | CH4N2O
solvent | water | 20 ml | O | H2O
solvent | water | 750 ml | O | H2O
product | Ethyl 4-hydroxy-3-methylbenzoate | OC1=C(C=C(C(=O)OCC)C=C1)C | C10H12O3
